US07084160B2
The mixture of N-cyclopropyl-4-fluoro-3-nitrobenzenesulfonamide (520 mg, 2 mmol) and Pd/C (10%, 100 mg) in EtOH was hydrogenated (1 atm) overnight. The mixture was filtered through a short pad of celite and concentrated in vacuo to afford N-cyclopropyl-4-fluoro-3-aminobenzenesulfonamide (440 mg, 95%) as an ivory solid. LC/MS; (M+H)+=231.

reactant | N-cyclopropyl-4-fluoro-3-nitrobenzenesulfonamide | 2 mmol, 520 mg | C1(CC1)NS(=O)(=O)C1=CC(=C(C=C1)F)[N+](=O)[O-] | C9H9FN2O4S
solvent | EtOH | CCO | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | N-cyclopropyl-4-fluoro-3-aminobenzenesulfonamide | 440 mg, 95% | C1(CC1)NS(=O)(=O)C1=CC(=C(C=C1)F)N | C9H11FN2O2S
